US05696112
N-[4-[(5,6-Dihydro-4H-thieno[3,2-b]azepin-4-yl)carbonyl]-3-chlorophenyl]-5-fluoro-2-methylbenzamide
To a cooled solution of 0.20 g of 4-(2-chloro-4-aminobenzoyl)-5,6-dihydro-4H-thieno [3,2-b]azepine and 137 μl of triethylamine in 3 ml of dichloromethane is added a solution of 0.142 g of 5-fluoro-2-methylbenzoyl chloride in 1 ml of dichloromethane. The mixture is stirred under argon for 2 days and diluted with 30 ml of dichloromethane and 15 ml of H2O. The organic layer is separated and washed with 15 ml each of 2N citric acid, 1M NaHCO3, brine and dried (Na2SO4). The solution is filtered through a thin pad of hydrous magnesium silicate, the filter pad washed with dichloromethane and the filtrate evaporated. The residue is crystallized from ethyl acetate to give 0.215 g of white crystals, m.p. 125°-132° C.

reactant | 4-(2-chloro-4-aminobenzoyl)-5,6-dihydro-4H-thieno [3,2-b]azepine | 0.20 g | ClC1=C(C(=O)N2C3=C(C=CCC2)SC=C3)C=CC(=C1)N | C15H13ClN2OS
reactant | triethylamine | 137 μl | C(C)N(CC)CC | C6H15N
reactant | 5-fluoro-2-methylbenzoyl chloride | 0.142 g | FC=1C=CC(=C(C(=O)Cl)C1)C | C8H6ClFO
solvent | dichloromethane | 3 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 1 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 30 ml | ClCCl | CH2Cl2
solvent | H2O | 15 ml | O | H2O
product | N-[4-[(5,6-Dihydro-4H-thieno[3,2-b]azepin-4-yl)carbonyl]-3-chlorophenyl]-5-fluoro-2-methylbenzamide | 0.215 g | S1C=CC=2N(CCC=CC21)C(=O)C2=C(C=C(C=C2)NC(C2=C(C=CC(=C2)F)C)=O)Cl | C23H18ClFN2O2S
